US04235996
9,10-Dihydro-9,10-anthracenedicarboxaldehyde
A mixture of 2.38 g. of cis-9,10-dihydro-9,10-ethanoanthracene-11,12-diol in 40 ml. of glacial acetic acid at room temperature is treated portionwise with 4.8 g. of lead tetraacetate, with stirring over a period of 10 minutes. The mixture is cooled to 15° C. and the solid which forms is collected by filtration, washed once with glacial acetic acid, then thoroughly with water giving the desired product as colorless grains, m.p. 144°-146° C.

reactant | cis-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | C1=CC=CC=2[C@H]3C4=CC=CC=C4[C@@H](C12)C(C3O)O | C16H14O2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9,10-Dihydro-9,10-anthracenedicarboxaldehyde | C1=CC=CC=2C(C3=CC=CC=C3C(C12)C=O)C=O | C16H12O2
